US05366987
(c) α-[[(2,4,6-trimethoxyphenyl)amino]carbonyl]benzene acetic acid
To a stirred solution of KOH (10.70 g, 0.191 mol) in absolute ethanol (1.1 L) was added α-[[(2,4,6-trimethoxyphenyl)amino]carbonyl] benzene acetic acid ethyl ester (55.28 g, 0.1480 mol), and the mixture was stirred for 41 hours. The resulting suspension was diluted with H2O (~900 mL) and rotoevaporated to remove ethanol. The solution was washed (ethyl acetate) and acidified with dropwise addition of 1M HCl (265 mL). The resulting precipitate was filtered off, washed (H2O), and dried in vacuo to give an off-white solid; yield 48.4 g (100%); 111°-113° C. (gas evolution).

reactant | KOH | 0.191 mol, 10.70 g | [OH-].[K+]
reactant | α-[[(2,4,6-trimethoxyphenyl)amino]carbonyl] benzene acetic acid ethyl ester | 0.1480 mol, 55.28 g | C(C)OC(C(C1=CC=CC=C1)C(=O)NC1=C(C=C(C=C1OC)OC)OC)=O | C20H23NO6
solvent | ethanol | 1.1 L | C(C)O | C2H6O
solvent | H2O | ~900 mL | O | H2O
product | α-[[(2,4,6-trimethoxyphenyl)amino]carbonyl]benzene acetic acid | COC1=C(C(=CC(=C1)OC)OC)NC(=O)C(C(=O)O)C1=CC=CC=C1 | C18H19NO6
